* source 008_N-CHANNELDRIVE
V_V1         +5V 0 +5Vdc
X_Q1         N00351 N02158 +12V awb2n4125 PARAMS:                              
+               
V_V2         +12V 0 +12Vdc
R_R2         0 N00351  5k TC=0,0 
R_R3         N00436 +12V  3 TC=0,0 
R_R4         N00545 N00351  1k TC=0,0 
R_R6         +5V 0  5k TC=0,0 
M_M1         N00436 N00545 0 0 M2N6755
R_R7         +12V N00745  10k TC=0,0 
R_R8         N00745 0  100k TC=0,0 
R_R5         0 +5V  5k TC=0,0 
R_R9         N00745 N02158  1k TC=0,0 
R_R13         N02912 N02904  1k TC=0,0 
R_R12         N02758 N02828  1k TC=0,0 
R_R14         N02758 0  10k TC=0,0 
R_R11         N02812 +12V  3 TC=0,0 
R_R10         +12V N02758  10k TC=0,0 
R_R15         0 N02904  5k TC=0,0 
M_M3         N02812 N02912 0 0 M2N6755
X_M5         N02904 N02828 +12V BSO613SPV/L1/INF
X_U1         N06295 0 N05689 +12V awb3c91
M_M7         N055791 N05745 0 0 M2N6755
R_R17         N055791 +12V  3 TC=0,0 
R_R19         N05745 N05689  1k TC=0,0 
R_R21         0 N05689  5k TC=0,0 
R_R22         +5V N06295  520 TC=0,0 
R_R24         +5V 0  5k TC=0,0 
R_R25         0 N08121  1k TC=0,0 
R_R26         0 N09683  1k TC=0,0 
X_U3A         +12V N08121 +5V N09683 awbmct66 PARAMS:                          
+        
